US05714496
A mixture of 3-ethynyl-3-hydroxyquinuclidine (516 mg), 2-(4-bromophenyl)pyridine (400 mg), bis(triphenylphosphine)palladium (II) chloride (100 mg), copper(I) iodide (50 mg) triethylamine (15 ml) and dimethylformamide (10 ml) was stirred at 90° C. under an atmosphere of argon for 2.5 hours. The mixture was allowed to cool to room temperature, alumina (5 g) added and the solvents removed by evaporation. This pre-absorbed material was chromatographed on alumina (30 g) using a mixture of 10% ethanol in ethyl acetate as eluent. There was thus obtained a residue which was crystallised from ethanol/hexane to give 3-[2-(4-[2-pyridyl]phenyl)ethynyl]-3-hydroxyquinuclidine as a solid, m.p. 205°-206° C.; microanalysis, found: C, 77.7; H, 6.4; N, 9.0%; C20H2ON2O.0.25H2O requires: C, 77.8; H, 6.5; N, 9.08%; NMR (DMSO-d6): 1.3(1H, m), 1.6(1H, m), 1.8-2.0(3H, m), 2.7(4H, m), 2.85(1H, d), 3.1(1H, d), 5.6(1H, s), 7.4(1H, m), 7.5(2H, d), 7.85-8.05(2H, m), 8.1(1H, d) and 8.7(1H, d); m/Z 305 (M+H).

reactant | 3-ethynyl-3-hydroxyquinuclidine | 516 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | 2-(4-bromophenyl)pyridine | 400 mg | BrC1=CC=C(C=C1)C1=NC=CC=C1 | C11H8BrN
catalyst | bis(triphenylphosphine)palladium (II) chloride | 100 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 15 ml, 50 mg | [Cu]I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-(4-[2-pyridyl]phenyl)ethynyl]-3-hydroxyquinuclidine | N1=C(C=CC=C1)C1=CC=C(C=C1)C#CC1(CN2CCC1CC2)O | C20H20N2O
